US04244961
To a mixture of 9.5 g 1-oxa-3,8-diazaspiro[4.5]decan-2-one and 75 ml water, at 0°, are added 6.3 g sodium bicarbonate and 10.9 g benzyl chloroformate. The mixture is stirred 18 hours at 0°, acidified with 10 N hydrochloric acid and stirred four hours at room temperature. The mixture is extracted with three 50 ml portions of dichloromethane. Removal of solvent affords 14.4 g 8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 126°-128°.

reactant | 1-oxa-3,8-diazaspiro[4.5]decan-2-one | 9.5 g | O1C(NCC12CCNCC2)=O | C7H12N2O2
reactant | sodium bicarbonate | 6.3 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 10.9 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | 10 N | Cl | ClH
solvent | water | 75 ml | O | H2O
product | 8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 14.4 g | C(=O)(OCC1=CC=CC=C1)N1CCC2(CNC(O2)=O)CC1 | C15H18N2O4
